US07618975B2
N2-[2-(1H-Imidazol-4-yl)-ethyl]-N4-(4-methoxy-phenyl)-N4-methyl-quinazoline-2,4-diamine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methylamine (10 mg, 0.033 mmol) and histamine hydrochloride (16 mg, 0.10) by a procedure similar to example 10 and was isolated as white solid (7 mg, 70%). 1H NMR (CDCl3): 7.52 (s, 1H), 7.49 (brd, J=3.9 Hz, 2H), 7.20-7.15 (m, 2H), 7.03-6.96 (m, 3H), 6.83 (ddd, J=8.4, 4.5 and 3.9 Hz, 1H), 6.66 (d, J=8.7 Hz, 1H), 3.88 (s, 3H), 3.85 (t, J=6.6 Hz, 2H), 3.63 (s, 3H), 3.03 (t, J=6.6 Hz, 2H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methylamine | 0.033 mmol, 10 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | histamine hydrochloride | 16 mg | Cl.NCCC1=CNC=N1
product | N2-[2-(1H-Imidazol-4-yl)-ethyl]-N4-(4-methoxy-phenyl)-N4-methyl-quinazoline-2,4-diamine | N1C=NC(=C1)CCNC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C21H22N6O
